US07429605B2
2-Methyl-3-[3-Methyl-4-(4-[1,2,3]triazol-1-yl-butyl)-phenoxymethyl]-6-(4-trifluoromethoxy-phenyl)-pyridine
26 mg (0.66 mmol) of 60% sodium hydride were added to at 0° C. to a solution of 153 mg (0.66 mmol) 3-methyl-4-(4-[1,2,3]triazol-1-yl-butyl)-phenol in 8.0 ml N,N-dimethylformamide and stirred for 30 min. at 0° C. 200 mg (0.66 mmol) 3-chloromethyl-2-methyl-6-(4-trifluoromethoxy-phenyl)-pyridine were given to the reaction mixture and stirring continued at room temperature (r.t.) overnight. After addition of 16 ml water the mixture was stirred for 1 h, the formed precipitate isolated by filtration, washed with water, n-heptane, and ether. The residue was dried at 40° C. in vacuum to give 300 mg (91%) of the title compound as white powder.

reactant | sodium hydride | 0.66 mmol, 26 mg | [H-].[Na+]
reactant | 3-methyl-4-(4-[1,2,3]triazol-1-yl-butyl)-phenol | 0.66 mmol, 153 mg | CC=1C=C(C=CC1CCCCN1N=NC=C1)O | C13H17N3O
reactant | 3-chloromethyl-2-methyl-6-(4-trifluoromethoxy-phenyl)-pyridine | 0.66 mmol, 200 mg | ClCC=1C(=NC(=CC1)C1=CC=C(C=C1)OC(F)(F)F)C | C14H11ClF3NO
reactant | water | 16 ml | O | H2O
solvent | N,N-dimethylformamide | 8.0 ml | CN(C=O)C | C3H7NO
product | 2-Methyl-3-[3-Methyl-4-(4-[1,2,3]triazol-1-yl-butyl)-phenoxymethyl]-6-(4-trifluoromethoxy-phenyl)-pyridine | 300 mg, 91% | CC1=NC(=CC=C1COC1=CC(=C(C=C1)CCCCN1N=NC=C1)C)C1=CC=C(C=C1)OC(F)(F)F | C27H27F3N4O2
